US20010000513A1
To a stirred suspension of 4-(4′-methoxy-biphenyl-4-yl)4-oxo-butyric acid, methyl ester (1.342 g, 0.00450 mol) in methanol (15 mL) at room temperature was added 50/50 wt/wt aqueous sodium hydroxide (0.41 g, 0.0051 mol), and the mixture was stirred for 3 days, for convenience. To the mixture was added 1.0 M aqueous sodium hydroxide (0.45 mL, 0.00045 mol) and stirring was continued for 1 day. The mixture was rotary evaporated, and the residue was partitioned between dichloromethane-tetrahydrofuran (50/50 v/v) and 0.2 M aqueous hydrochloric acid. The organic layer was washed with brine and dried (Na2SO4). The mixture was rotary evaporated, and the residue was purified by chromatography on silica gel (154 g, 230-400 mesh), eluting with dichloromethane (7×225 mL); dichloromethane-methanol (19:1, 7×225 mL) to give 0.929 g of 4-(4′-methoxy-biphenyl-4-yl)-4-oxo-butyric acid as an off-white solid; mp 197-199° C.

reactant | 4-(4′-methoxy-biphenyl-4-yl)4-oxo-butyric acid, methyl ester | 0.00450 mol, 1.342 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C18H18O4
reactant | sodium hydroxide | 0.0051 mol, 0.41 g | [OH-].[Na+]
reactant | sodium hydroxide | 0.00045 mol, 1.0 M, 0.45 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 4-(4′-methoxy-biphenyl-4-yl)-4-oxo-butyric acid | 0.929 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C17H16O4
